US08859573B2
5-{[(2-chloro-4-pyrimidinyl)oxy]methyl}-2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}benzonitrile
To a solution of 2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-(hydroxymethyl)benzonitrile (2.50 g, 7.63 mmol) in N,N-dimethylformamide (20 mL) was added sodium hydride (1.22 g, 30.5 mmol) at 0° C., then 2,4-dichloropyrimidine (1.25 g, 8.39 mmol) was added at 0° C. after 10 min. The reaction mixture was stirred for 30 min, and poured into ice-water (100 mL), extracted with ethyl acetate (50 mL) twice. Combined organic parts were washed with water and brine, dried over sodium sulfate, filtered and concentrated. Purification via ISCO system afforded the title product (2.31 g). LC-MS (ESI): m/z 440 [M+H]+; 3.95 min (ret time).

reactant | 2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}-5-(hydroxymethyl)benzonitrile | 7.63 mmol, 2.50 g | ClC1=C(C=C(C=C1)OC1=C(C#N)C=C(C=C1)CO)C(F)(F)F | C15H9ClF3NO2
reactant | sodium hydride | 30.5 mmol, 1.22 g | [H-].[Na+]
reactant | 2,4-dichloropyrimidine | 8.39 mmol, 1.25 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 5-{[(2-chloro-4-pyrimidinyl)oxy]methyl}-2-{[4-chloro-3-(trifluoromethyl)phenyl]oxy}benzonitrile | 2.31 g | ClC1=NC=CC(=N1)OCC=1C=CC(=C(C#N)C1)OC1=CC(=C(C=C1)Cl)C(F)(F)F | C19H10Cl2F3N3O2
